US04324787
2,4,5-trichlorophenyl 2-oxo-1-pyrrolidineacetate
84.8 g of 2-oxo-1-pyrrolidineacetic acid and 128.5 g of 2,4,5-trichlorophenol are dissolved in 1,500 ml of methylene chloride, 138.75 g of dicyclohexylcarbodiimide are slowly added at 0° C. and the mixture is stirred at 20° C. for three hours. The urea which has precipitated is then filtered off, the solvent is evaporated off and the residue is recrystallised from ethyl acetate.

reactant | 2-oxo-1-pyrrolidineacetic acid | 84.8 g | O=C1N(CCC1)CC(=O)O | C6H9NO3
reactant | 2,4,5-trichlorophenol | 128.5 g | ClC1=C(C=C(C(=C1)Cl)Cl)O | C6H3Cl3O
reactant | dicyclohexylcarbodiimide | 138.75 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | methylene chloride | 1,500 ml | C(Cl)Cl | CH2Cl2
product | 2,4,5-trichlorophenyl 2-oxo-1-pyrrolidineacetate | O=C1N(CCC1)CC(=O)OC1=C(C=C(C(=C1)Cl)Cl)Cl | C12H10Cl3NO3
